### PR TITLE
[Merged by Bors] - feat(GroupTheory): virtually cyclic groups

### PR DESCRIPTION
**Pull request by t4v1**
Define virtually cyclic groups — groups with a cyclic subgroup of finite
index — as a companion to the existing `Group.IsVirtuallyNilpotent`.

Main declarations:

* `Group.IsVirtuallyCyclic`
* `IsCyclic.isVirtuallyCyclic`, `Group.isVirtuallyCyclic_of_subsingleton`,
  `Group.isVirtuallyCyclic_of_finite`
* `Group.IsVirtuallyCyclic.isVirtuallyNilpotent` (companion to
  `Group.IsNilpotent.isVirtuallyNilpotent`)
* closure properties: `Group.IsVirtuallyCyclic.subgroup`,
  `Group.IsVirtuallyCyclic.of_surjective`, `Group.IsVirtuallyCyclic.quotient`
* `to_additive` versions throughout (`AddGroup.IsVirtuallyAddCyclic` etc.),
  except the nilpotent bridge, since Mathlib has no additive nilpotency.

Motivation: virtually cyclic groups are the elementary subgroups of
hyperbolic groups, the groups with at most two ends, and the conclusion of
the curvature-free Margulis lemma (Besson–Courtois–Gallot–Sambusetti,
arXiv:1712.08386). A TODO in the module docstring records the two-ends
characterisation as future work (blocked on ends of groups).

**AI disclosure** (per the contribution guidelines): this file was written by
an AI assistant (Claude Code, Anthropic — model Claude Fable 5), directed and
reviewed by the author, during a project formalising statements of the papers
of Gilles Courtois. All proofs are complete (no `sorry`); the file passes
`#lint` locally. Please apply the `LLM-generated` label.

---

### CODE REVIEW

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 1]
```diff
@@ -0,0 +1,133 @@
...
+/-- A finite group is virtually cyclic — via the trivial subgroup, which is
+cyclic and of finite index. -/
+@[to_additive]
+theorem isVirtuallyCyclic_of_finite [Finite G] : IsVirtuallyCyclic G := by
+  have : Subsingleton (⊥ : Subgroup G) :=
+    ⟨fun a b => Subtype.ext ((Subgroup.mem_bot.mp a.2).trans
+      (Subgroup.mem_bot.mp b.2).symm)⟩
+  exact ⟨⊥, inferInstance, ⟨Subgroup.index_ne_zero_of_finite⟩⟩
+
+set_option linter.style.haveILetI false in
```
Comment (wwylele) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: Please follow the linter and correct the code

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 2]
```diff
@@ -0,0 +1,133 @@
...
+
+/-- Every subgroup of a virtually cyclic group is virtually cyclic. The
+witness is `H.subgroupOf K`, cyclic because it is isomorphic to `H ⊓ K ≤ H`,
+of finite index in `K` by `Subgroup.instFiniteIndex_subgroupOf`. -/
+@[to_additive]
+theorem IsVirtuallyCyclic.subgroup (h : IsVirtuallyCyclic G)
+    (K : Subgroup G) : IsVirtuallyCyclic K := by
+  obtain ⟨H, hc, hfi⟩ := h
+  have := hc
+  have := hfi
```
Comment (wwylele) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: These doesn't look like needed

```suggestion
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 3]
```diff
@@ -0,0 +1,133 @@
...
+/-- The image of a virtually cyclic group under a surjective homomorphism is
+virtually cyclic. Cyclicity of the image subgroup comes from
+`isCyclic_of_surjective` along `f.subgroupMap`; finiteness of its index from
+`Subgroup.index_map_dvd`. -/
+@[to_additive]
+theorem IsVirtuallyCyclic.of_surjective {G' : Type*} [Group G']
+    (f : G →* G') (hf : Function.Surjective f) (h : IsVirtuallyCyclic G) :
+    IsVirtuallyCyclic G' := by
+  obtain ⟨H, hc, hfi⟩ := h
+  have := hc
```
Comment (wwylele) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: Same here
```suggestion
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 4]
```diff
@@ -0,0 +1,133 @@
...
+* `Group.IsVirtuallyCyclic.isVirtuallyNilpotent` : virtually cyclic groups are
+  virtually nilpotent (companion to `Group.IsNilpotent.isVirtuallyNilpotent`).
+* `Group.IsVirtuallyCyclic.subgroup`, `Group.IsVirtuallyCyclic.of_surjective`,
+  `Group.IsVirtuallyCyclic.quotient` : closure under subgroups, surjective
+  images and quotients.
+
+Additive versions (`AddGroup.IsVirtuallyAddCyclic` and companions) are
+generated by `to_additive`; the nilpotent bridge stays multiplicative-only,
+as Mathlib has no additive nilpotency.
+
```
Comment (wwylele) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: My guess is that these are AI generated, but it is too noisy and should be removed. This can be simply one-line TODO right above `IsVirtuallyCyclic.isVirtuallyNilpotent`

```suggestion
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 5]
```diff
@@ -0,0 +1,133 @@
...
+namespace Group
+
+variable (G : Type*) [Group G]
+
+/-- A group is **virtually cyclic** if it has a cyclic subgroup of finite
+index. -/
+@[to_additive /-- An additive group is **virtually cyclic** if it has a cyclic
+additive subgroup of finite index. -/]
+def IsVirtuallyCyclic : Prop :=
+  ∃ H : Subgroup G, IsCyclic H ∧ H.FiniteIndex
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: Most properties in the group theory library are `class`es, so that we can infer them automatically with `instance`s
```suggestion
/-- An additive group is **virtually cyclic** if it has a cyclic subgroup of finite index. -/
@[mk_iff]
class _root_.AddGroup.IsVirtuallyAddCyclic (G : Type*) [AddGroup G] : Prop where
  exists_isAddCyclic_and_finiteIndex : ∃ H : AddSubgroup G, IsAddCyclic H

/-- A group is **virtually cyclic** if it has a cyclic subgroup of finite index. -/
@[mk_iff, to_additive existing]
class IsVirtuallyCyclic : Prop where
  exists_isCyclic_and_finiteIndex : ∃ H : Subgroup G, IsCyclic H
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 6]
```diff
@@ -0,0 +1,133 @@
...
+
+variable {G}
+
+/-- A cyclic group is virtually cyclic. -/
+@[to_additive]
+theorem _root_.IsCyclic.isVirtuallyCyclic (hG : IsCyclic G) :
+    IsVirtuallyCyclic G := by
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
instance [IsCyclic G] : IsVirtuallyCyclic G := by
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 7]
```diff
@@ -0,0 +1,133 @@
...
+  have := hG
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: This is redundant
```suggestion
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 8]
```diff
@@ -0,0 +1,133 @@
...
+  exact ⟨⊤, inferInstance, inferInstance⟩
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: `by` and `exact` are redundant

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 9]
```diff
@@ -0,0 +1,133 @@
...
+
+/-- A trivial group is virtually cyclic. -/
+@[to_additive]
+theorem isVirtuallyCyclic_of_subsingleton [Subsingleton G] :
+    IsVirtuallyCyclic G :=
+  isCyclic_of_subsingleton.isVirtuallyCyclic
+
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: This is redundant given the `Finite` version that comes immediately after it
```suggestion
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 10]
```diff
@@ -0,0 +1,133 @@
...
+/-- A finite group is virtually cyclic — via the trivial subgroup, which is
+cyclic and of finite index. -/
+@[to_additive]
+theorem isVirtuallyCyclic_of_finite [Finite G] : IsVirtuallyCyclic G := by
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
instance [Finite G] : IsVirtuallyCyclic G := by
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 11]
```diff
@@ -0,0 +1,133 @@
...
+  have : Subsingleton (⊥ : Subgroup G) :=
+    ⟨fun a b => Subtype.ext ((Subgroup.mem_bot.mp a.2).trans
+      (Subgroup.mem_bot.mp b.2).symm)⟩
+  exact ⟨⊥, inferInstance, ⟨Subgroup.index_ne_zero_of_finite⟩⟩
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: `by` and `exact` are redundant

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 12]
```diff
@@ -0,0 +1,133 @@
...
+  -- unfolding the inlined value.
+  letI : CommGroup H := hc.commGroup
+  exact CommGroup.isNilpotent
+
+/-- Every subgroup of a virtually cyclic group is virtually cyclic. The
+witness is `H.subgroupOf K`, cyclic because it is isomorphic to `H ⊓ K ≤ H`,
+of finite index in `K` by `Subgroup.instFiniteIndex_subgroupOf`. -/
+@[to_additive]
+theorem IsVirtuallyCyclic.subgroup (h : IsVirtuallyCyclic G)
+    (K : Subgroup G) : IsVirtuallyCyclic K := by
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
instance [IsVirtuallyCyclic G] (K : Subgroup G) : IsVirtuallyCyclic K := by
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 13]
```diff
@@ -0,0 +1,133 @@
...
+  refine ⟨H.map f, ?_, ?_⟩
+  · exact isCyclic_of_surjective _ (f.subgroupMap_surjective H)
+  · refine ⟨fun h0 => hfi.index_ne_zero ?_⟩
+    have hd := Subgroup.index_map_dvd (H := H) hf
+    rwa [h0, zero_dvd_iff] at hd
+
+/-- Quotients of virtually cyclic groups are virtually cyclic. -/
+@[to_additive]
+theorem IsVirtuallyCyclic.quotient (h : IsVirtuallyCyclic G)
+    (N : Subgroup G) [N.Normal] : IsVirtuallyCyclic (G ⧸ N) :=
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
instance [IsVirtuallyCyclic G] (N : Subgroup G) [N.Normal] : IsVirtuallyCyclic (G ⧸ N) :=
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 14]
```diff
@@ -0,0 +1,133 @@
...
+theorem IsVirtuallyCyclic.subgroup (h : IsVirtuallyCyclic G)
+    (K : Subgroup G) : IsVirtuallyCyclic K := by
+  obtain ⟨H, hc, hfi⟩ := h
+  have := hc
+  have := hfi
+  refine ⟨H.subgroupOf K, ?_, inferInstance⟩
+  have hEq : H.subgroupOf K = (H ⊓ K).subgroupOf K := by
+    ext x
+    simp [Subgroup.mem_subgroupOf]
+  have : IsCyclic (↥(H ⊓ K)) := Subgroup.isCyclic_of_le inf_le_left
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
  have : IsCyclic (H ⊓ K :) := Subgroup.isCyclic_of_le inf_le_left
```

**Review by SnirBroshi — COMMENTED** [review]
Welcome!

btw in the future you can add the label `LLM-generated` yourself by commenting `LLM-generated`. Please read the [contribution guidelines](https://leanprover-community.github.io/contribute/how-to-contribute.html) for more information.

**Comment by t4v1** [comment]
- I  adopted the class design, base cases and subgroup/quotient closure are now instances;
   - the class suggestion wasn't applied verbatim: its field type had dropped ∧ H.FiniteIndex (which would make every group virtually cyclic via ⊥), so I restored it;
   - linter workaround removed by passing the CommGroup instance as a direct term; redundant haves, the subsingleton lemma, and a leftover Subsingleton ⊥ construction are all gone.

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 15]
```diff
@@ -0,0 +1,111 @@
...
+  ⟨⊥, inferInstance, ⟨Subgroup.index_ne_zero_of_finite⟩⟩
+
+-- TODO: additivize once Mathlib has additive nilpotency.
+/-- A virtually cyclic group is virtually nilpotent: a cyclic group is
+commutative, hence nilpotent. This slots next to
+`Group.IsNilpotent.isVirtuallyNilpotent`. -/
+theorem IsVirtuallyCyclic.isVirtuallyNilpotent [h : IsVirtuallyCyclic G] :
+    IsVirtuallyNilpotent G := by
+  obtain ⟨H, hc, hfi⟩ := h.exists_isCyclic_and_finiteIndex
+  exact ⟨H, @CommGroup.isNilpotent _ hc.commGroup, hfi⟩
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
variable (G) in
theorem IsVirtuallyCyclic.isVirtuallyNilpotent [IsVirtuallyCyclic G] : IsVirtuallyNilpotent G :=
  have ⟨H, hc, hfi⟩ := ‹IsVirtuallyCyclic G›.exists_isCyclic_and_finiteIndex
  ⟨H, @CommGroup.isNilpotent _ hc.commGroup, hfi⟩
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 16]
```diff
@@ -0,0 +1,111 @@
...
+
+/-- Every subgroup of a virtually cyclic group is virtually cyclic. The
+witness is `H.subgroupOf K`, cyclic because it is isomorphic to `H ⊓ K ≤ H`,
+of finite index in `K` by `Subgroup.instFiniteIndex_subgroupOf`. -/
+@[to_additive]
+instance [h : IsVirtuallyCyclic G] (K : Subgroup G) : IsVirtuallyCyclic K := by
+  obtain ⟨H, hc, hfi⟩ := h.exists_isCyclic_and_finiteIndex
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: We don't usually name instance parameters
```suggestion
instance [IsVirtuallyCyclic G] (K : Subgroup G) : IsVirtuallyCyclic K := by
  obtain ⟨H, hc, hfi⟩ := ‹IsVirtuallyCyclic G›.exists_isCyclic_and_finiteIndex
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 17]
```diff
@@ -0,0 +1,111 @@
...
+
+/-- The image of a virtually cyclic group under a surjective homomorphism is
+virtually cyclic. Cyclicity of the image subgroup comes from
+`isCyclic_of_surjective` along `f.subgroupMap`; finiteness of its index from
+`Subgroup.index_map_dvd`. -/
+@[to_additive]
+theorem IsVirtuallyCyclic.of_surjective {G' : Type*} [Group G']
+    (f : G →* G') (hf : Function.Surjective f) [h : IsVirtuallyCyclic G] :
+    IsVirtuallyCyclic G' := by
+  obtain ⟨H, hc, hfi⟩ := h.exists_isCyclic_and_finiteIndex
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: Can you add `{G' : Type*} [Group G']` to the `variable`s at the top of the file?
```suggestion
theorem IsVirtuallyCyclic.of_surjective (f : G →* G') (hf : Function.Surjective f)
    [IsVirtuallyCyclic G] : IsVirtuallyCyclic G' := by
  obtain ⟨H, hc, hfi⟩ := ‹IsVirtuallyCyclic G›.exists_isCyclic_and_finiteIndex
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 18]
```diff
@@ -0,0 +1,111 @@
...
+  refine ⟨H.map f, ?_, ?_⟩
+  · exact isCyclic_of_surjective _ (f.subgroupMap_surjective H)
+  · refine ⟨fun h0 => hfi.index_ne_zero ?_⟩
+    have hd := Subgroup.index_map_dvd (H := H) hf
+    rwa [h0, zero_dvd_iff] at hd
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
  refine ⟨H.map f, isCyclic_of_surjective _ (f.subgroupMap_surjective H), ⟨fun h0 ↦ ?_⟩⟩
  apply hfi.index_ne_zero
  have hd := H.index_map_dvd hf
  rwa [h0, zero_dvd_iff] at hd
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 19]
```diff
@@ -0,0 +1,111 @@
...
+  have : IsCyclic (H ⊓ K :) := Subgroup.isCyclic_of_le inf_le_left
+  rw [hEq]
+  exact (Subgroup.subgroupOfEquivOfLe inf_le_right).isCyclic.mpr this
+
+/-- The image of a virtually cyclic group under a surjective homomorphism is
+virtually cyclic. Cyclicity of the image subgroup comes from
+`isCyclic_of_surjective` along `f.subgroupMap`; finiteness of its index from
+`Subgroup.index_map_dvd`. -/
+@[to_additive]
+theorem IsVirtuallyCyclic.of_surjective {G' : Type*} [Group G']
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: Can you add an `of_injective` version?

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 20]
```diff
@@ -0,0 +1,111 @@
...
+index. -/
+@[mk_iff, to_additive existing]
+class IsVirtuallyCyclic : Prop where
+  exists_isCyclic_and_finiteIndex : ∃ H : Subgroup G, IsCyclic H ∧ H.FiniteIndex
+
+variable {G}
+
+/-- A cyclic group is virtually cyclic. -/
+@[to_additive]
+instance [IsCyclic G] : IsVirtuallyCyclic G :=
```
Comment (kbuzzard) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: Probably this and the next instance should have low priority (and there should be a link to the reduced priority instance library note) because they always apply.

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 21]
```diff
@@ -0,0 +1,111 @@
...
+cyclic and of finite index. -/
+@[to_additive]
+instance [Finite G] : IsVirtuallyCyclic G :=
+  ⟨⊥, inferInstance, ⟨Subgroup.index_ne_zero_of_finite⟩⟩
+
+-- TODO: additivize once Mathlib has additive nilpotency.
+/-- A virtually cyclic group is virtually nilpotent: a cyclic group is
+commutative, hence nilpotent. This slots next to
+`Group.IsNilpotent.isVirtuallyNilpotent`. -/
+theorem IsVirtuallyCyclic.isVirtuallyNilpotent [h : IsVirtuallyCyclic G] :
```
Comment (kbuzzard) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: You shouldn't be naming the `IsVirtuallyCyclic` instance -- you should add API so that you don't have to.

Comment (SnirBroshi) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: It can't be an instance because the nilpotent one isn't a class

Edit: oh sorry I misunderstood, you were referring to `h`. In that case there's already a comment above about it

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean
Comment (SnirBroshi) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean:1]: Could you add
```lean
variable (G) in
@[to_additive]
theorem IsVirtuallyCyclic.exists_isCyclic_and_finiteIndex_and_normal [IsVirtuallyCyclic G] :
    ∃ H : Subgroup G, IsCyclic H ∧ H.FiniteIndex ∧ H.Normal := by
```
using `Subgroup.isCyclic_of_le`, `Subgroup.finiteIndex_normalCore`, and `Subgroup.normalCore_normal`?

**Comment by t4v1** [comment]
Thanks all — both rounds addressed.
 In f14b255: base instances lowered to priority 100 with the library-note reference, instance binders unnamed everywhere (using ‹IsVirtuallyCyclic G›), G' moved to the file-level variables, of_surjective restructured as suggested, and of_injective added by transferring along MonoidHom.ofInjective to the range and back via of_surjective. 
In f8ba110: added exists_isCyclic_and_finiteIndex_and_normal via the normal core, using the three lemmas suggested.

**Comment by wwylele** [comment]
A reminder of the [guideline](https://leanprover-community.github.io/contribute/index.html#use-of-ai)

> Using an LLM when writing comments on GitHub or Zulip is not allowed: use your own words.

**Comment by t4v1** [comment]
ok, i have used Fable at lean. I will make it muself from now. But i am using my words in the comments. As in this comment 👍

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 22]
```diff
@@ -0,0 +1,130 @@
...
+@[to_additive]
+instance [IsVirtuallyCyclic G] (K : Subgroup G) : IsVirtuallyCyclic K := by
+  obtain ⟨H, hc, hfi⟩ := ‹IsVirtuallyCyclic G›.exists_isCyclic_and_finiteIndex
+  refine ⟨H.subgroupOf K, ?_, inferInstance⟩
+  have hEq : H.subgroupOf K = (H ⊓ K).subgroupOf K := by
+    ext x
+    simp [Subgroup.mem_subgroupOf]
+  have : IsCyclic (H ⊓ K :) := Subgroup.isCyclic_of_le inf_le_left
+  rw [hEq]
+  exact (Subgroup.subgroupOfEquivOfLe inf_le_right).isCyclic.mpr this
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: If you add a few missing lemmas, then you could do this:
```suggestion
@[to_additive]
theorem IsVirtuallyCyclic.of_injective (f : G →* G') (hf : Function.Injective f)
    [IsVirtuallyCyclic G'] : IsVirtuallyCyclic G := by
  obtain ⟨H, hc, hfi⟩ := ‹IsVirtuallyCyclic G'›.exists_isCyclic_and_finiteIndex
  exact ⟨H.comap f, isCyclic_of_injective (f.subgroupComap H) sorry, sorry⟩

@[to_additive]
instance [IsVirtuallyCyclic G] (K : Subgroup G) : IsVirtuallyCyclic K := by
  exact .of_injective K.subtype K.subtype_injective
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 23]
```diff
@@ -0,0 +1,130 @@
...
+`isCyclic_of_surjective` along `f.subgroupMap`; finiteness of its index from
+`Subgroup.index_map_dvd`. -/
+@[to_additive]
+theorem IsVirtuallyCyclic.of_surjective (f : G →* G') (hf : Function.Surjective f)
+    [IsVirtuallyCyclic G] : IsVirtuallyCyclic G' := by
+  obtain ⟨H, hc, hfi⟩ := ‹IsVirtuallyCyclic G›.exists_isCyclic_and_finiteIndex
+  refine ⟨H.map f, isCyclic_of_surjective _ (f.subgroupMap_surjective H), ⟨fun h0 ↦ ?_⟩⟩
+  apply hfi.index_ne_zero
+  have hd := H.index_map_dvd hf
+  rwa [h0, zero_dvd_iff] at hd
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: Can you add something like `FiniteIndex.map_of_surjective` as a separate lemma?

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 24]
```diff
@@ -0,0 +1,130 @@
...
+    H.finiteIndex_normalCore, H.normalCore_normal⟩
+
+-- TODO: additivize once Mathlib has additive nilpotency.
+/-- A virtually cyclic group is virtually nilpotent: a cyclic group is
+commutative, hence nilpotent. This slots next to
+`Group.IsNilpotent.isVirtuallyNilpotent`. -/
+theorem IsVirtuallyCyclic.isVirtuallyNilpotent [IsVirtuallyCyclic G] :
+    IsVirtuallyNilpotent G := by
+  obtain ⟨H, hc, hfi⟩ := ‹IsVirtuallyCyclic G›.exists_isCyclic_and_finiteIndex
+  exact ⟨H, @CommGroup.isNilpotent _ hc.commGroup, hfi⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: Can you generalize `CommGroup.isNilpotent` to `[Group G] [IsMulCommutative G]` so that this can become
```suggestion
  exact ⟨H, inferInstance, hfi⟩
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 25]
```diff
@@ -0,0 +1,130 @@
...
+
+variable (G) in
+/-- A virtually cyclic group has a subgroup that is cyclic, of finite index
+and normal: the normal core of any cyclic finite-index subgroup. -/
+@[to_additive]
+theorem IsVirtuallyCyclic.exists_isCyclic_and_finiteIndex_and_normal [IsVirtuallyCyclic G] :
+    ∃ H : Subgroup G, IsCyclic H ∧ H.FiniteIndex ∧ H.Normal := by
+  obtain ⟨H, hc, hfi⟩ := ‹IsVirtuallyCyclic G›.exists_isCyclic_and_finiteIndex
+  exact ⟨H.normalCore, Subgroup.isCyclic_of_le H.normalCore_le,
+    H.finiteIndex_normalCore, H.normalCore_normal⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
  exact ⟨H.normalCore, Subgroup.isCyclic_of_le H.normalCore_le, inferInstance, inferInstance⟩
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 26]
```diff
@@ -0,0 +1,130 @@
...
+-- see Note [lower instance priority]
+instance (priority := 100) [IsCyclic G] : IsVirtuallyCyclic G :=
+  ⟨⊤, inferInstance, inferInstance⟩
+
+/-- A finite group is virtually cyclic — via the trivial subgroup, which is
+cyclic and of finite index. -/
+@[to_additive]
+-- see Note [lower instance priority]
+instance (priority := 100) [Finite G] : IsVirtuallyCyclic G :=
+  ⟨⊥, inferInstance, ⟨Subgroup.index_ne_zero_of_finite⟩⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
  ⟨⊥, inferInstance, inferInstance⟩
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 27]
```diff
@@ -0,0 +1,147 @@
...
+Copyright (c) 2026 Octavian Halmaghi. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Octavian Halmaghi
+-/
+module
+
+public import Mathlib.Algebra.Group.Subgroup.Map
+public import Mathlib.GroupTheory.Index
+public import Mathlib.GroupTheory.Nilpotent
+public import Mathlib.GroupTheory.SpecificGroups.Cyclic
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
public import Mathlib.GroupTheory.Nilpotent
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 28]
```diff
@@ -0,0 +1,147 @@
...
+variable (G : Type*) [Group G] {G' : Type*} [Group G']
+
+/-- An additive group is **virtually cyclic** if it has a cyclic additive
+subgroup of finite index. -/
+@[mk_iff]
+class _root_.AddGroup.IsVirtuallyAddCyclic (G : Type*) [AddGroup G] : Prop where
+  exists_isAddCyclic_and_finiteIndex : ∃ H : AddSubgroup G, IsAddCyclic H ∧ H.FiniteIndex
+
+/-- A group is **virtually cyclic** if it has a cyclic subgroup of finite
+index. -/
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
/-- A group is **virtually cyclic** if it has a cyclic subgroup of finite index. -/
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 29]
```diff
@@ -0,0 +1,147 @@
...
+instance (priority := 100) [Finite G] : IsVirtuallyCyclic G :=
+  ⟨⊥, inferInstance, inferInstance⟩
+
+/-- The preimage of a finite-index subgroup has finite index. -/
+@[to_additive]
+theorem _root_.Subgroup.FiniteIndex.comap {H : Subgroup G'} (hfi : H.FiniteIndex)
+    (f : G →* G') : (H.comap f).FiniteIndex :=
+  ⟨by
+    rw [Subgroup.index_comap]
+    exact (Subgroup.instFiniteIndex_subgroupOf H f.range).index_ne_zero⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: This should be moved to an earlier file (and you should use `where` instead of angle brackets)

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 30]
```diff
@@ -0,0 +1,147 @@
...
+
+/-- The image of a finite-index subgroup under a surjective homomorphism has
+finite index. -/
+@[to_additive]
+theorem _root_.Subgroup.FiniteIndex.map_of_surjective {H : Subgroup G}
+    (hfi : H.FiniteIndex) {f : G →* G'} (hf : Function.Surjective f) :
+    (H.map f).FiniteIndex := by
+  refine ⟨fun h0 => hfi.index_ne_zero ?_⟩
+  have hd := H.index_map_dvd hf
+  rwa [h0, zero_dvd_iff] at hd
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: Likewise, this should be moved to an earlier file (and use `where`).

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 31]
```diff
@@ -0,0 +1,147 @@
...
+
+/-- The restriction of an injective homomorphism to a preimage subgroup is
+injective. -/
+@[to_additive]
+theorem _root_.MonoidHom.subgroupComap_injective_of_injective (f : G →* G')
+    (H : Subgroup G') (hf : Function.Injective f) :
+    Function.Injective (f.subgroupComap H) := by
+  intro a b h
+  have h2 : f (a : G) = f (b : G) := congrArg Subtype.val h
+  exact Subtype.ext (hf h2)
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: This should be moved to an earlier file.

File: Mathlib/Algebra/Group/Subgroup/Map.lean [hunk 32]
```diff
@@ -501,6 +501,11 @@ lemma subgroupComap_surjective_of_surjective (f : G →* G') (H' : Subgroup G')
     Surjective (f.subgroupComap H') :=
   f.submonoidComap_surjective_of_surjective H'.toSubmonoid hf
 
+@[to_additive]
+lemma subgroupComap_injective_of_injective (f : G →* G') (H' : Subgroup G')
```
Comment (grunweg) [inline Mathlib/Algebra/Group/Subgroup/Map.lean]: Per mathlib's naming convention, it should be named this way around:
```suggestion
lemma injective_subgroupComap_of_injective (f : G →* G') (H' : Subgroup G')
```

File: Mathlib/GroupTheory/Nilpotent.lean [hunk 33]
```diff
@@ -954,10 +954,11 @@ theorem Group.IsNilpotent.nilpotencyClass_le_one_iff [IsNilpotent G] :
 
 /-- Abelian groups are nilpotent. -/
 @[to_additive /-- Abelian groups are nilpotent. -/]
-instance (priority := 100) CommGroup.isNilpotent {G : Type*} [CommGroup G] : IsNilpotent G := by
+instance (priority := 100) CommGroup.isNilpotent {G : Type*} [Group G] [IsMulCommutative G] :
+    IsNilpotent G := by
```
Comment (grunweg) [inline Mathlib/GroupTheory/Nilpotent.lean:958]: splice-bot merge

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 27 above)
Comment (grunweg) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: Please also address this comment, thanks!

**Comment by grunweg** [comment]
> ok, i have used Fable at lean. I will make it muself from now. But i am using my words in the comments. As in this comment 👍

The last commit was made using Fable again. I thought you meant to write all changes by hand now. Did I misunderstand?

File: Mathlib/Algebra/Group/Subgroup/Map.lean (hunk 32 above)
Comment (SnirBroshi) [reply Mathlib/Algebra/Group/Subgroup/Map.lean]: But the naming convention says to put "injective" as a suffix

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 27 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: i addressed the sugestion in 7019fe0

**Comment by t4v1** [comment]
> > ok, i have used Fable at lean. I will make it muself from now. But i am using my words in the comments. As in this comment 👍
> 
> The last commit was made using Fable again. I thought you meant to write all changes by hand now. Did I misunderstand?

You are right, I have to become better a lean, now i'm not better that fable. i use it to correct the small mistakes. However the comments are mine.
Probably i will use fable more in lean, so I will disclose it whenever i do it. I hope that PR will go on. Thank you.

**Comment by t4v1** [comment]
-awaiting-author

File: Mathlib/Algebra/Group/Subgroup/Map.lean (hunk 32 above)
Comment (SnirBroshi) [reply Mathlib/Algebra/Group/Subgroup/Map.lean]: btw I think `subgroupComap_injective` is a better name, could we go with that?

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 34]
```diff
@@ -0,0 +1,115 @@
...
+/-- A group embedding into a virtually cyclic group is virtually cyclic: the
+preimage of the cyclic finite-index subgroup witnesses it. -/
+@[to_additive]
+theorem IsVirtuallyCyclic.of_injective (f : G →* G') (hf : Function.Injective f)
+    [IsVirtuallyCyclic G'] : IsVirtuallyCyclic G := by
+  obtain ⟨H, hc, hfi⟩ := ‹IsVirtuallyCyclic G'›.exists_isCyclic_and_finiteIndex
+  exact ⟨H.comap f,
+    isCyclic_of_injective (f.subgroupComap H)
+      (f.subgroupComap_injective_of_injective H hf),
+    hfi.comap f⟩
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
  refine ⟨H.comap f, ?_, hfi.comap f⟩
  exact isCyclic_of_injective (f.subgroupComap H) (f.subgroupComap_injective_of_injective H hf)
```

File: Mathlib/GroupTheory/Index.lean [hunk 35]
```diff
@@ -784,6 +784,20 @@ instance instFiniteIndex_subgroupOf (H K : Subgroup G) [H.FiniteIndex] :
     (H.subgroupOf K).FiniteIndex :=
   ⟨fun h => H.index_ne_zero_of_finite <| H.index_eq_zero_of_relIndex_eq_zero h⟩
 
+@[to_additive]
+theorem FiniteIndex.comap {G' : Type*} [Group G'] {H : Subgroup G'} (hfi : H.FiniteIndex)
+    (f : G →* G') : (H.comap f).FiniteIndex where
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: This can be an instance.

**Review by tb65536 — COMMENTED** [review]
Please resolve any review comments that have been fully addressed.

File: Mathlib/GroupTheory/Index.lean (hunk 35 above)
Comment (t4v1) [reply Mathlib/GroupTheory/Index.lean]: done in 3a5f642

File: Mathlib/Algebra/Group/Subgroup/Map.lean (hunk 32 above)
Comment (t4v1) [reply Mathlib/Algebra/Group/Subgroup/Map.lean]: done in 3a5f642

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 22 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: f_injective

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 31 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: moved to earlier file

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 30 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: loved to earlier file

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 25 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: normalCore

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 23 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: added as a separate lemma in Index.lean

File: Mathlib/Algebra/Group/Subgroup/Map.lean [hunk 36]
```diff
@@ -501,6 +501,11 @@ lemma subgroupComap_surjective_of_surjective (f : G →* G') (H' : Subgroup G')
     Surjective (f.subgroupComap H') :=
   f.submonoidComap_surjective_of_surjective H'.toSubmonoid hf
 
+@[to_additive]
+lemma subgroupComap_injective (f : G →* G') (H' : Subgroup G')
+    (hf : Function.Injective f) : Function.Injective (f.subgroupComap H') :=
+  fun _ _ h => Subtype.ext (hf (congrArg Subtype.val h))
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Subgroup/Map.lean]: Can you make this match the previous (`subgroupComap_injective_of_injective` along with a `Submonoid` version)?

File: Mathlib/GroupTheory/Index.lean [hunk 37]
```diff
@@ -784,6 +784,20 @@ instance instFiniteIndex_subgroupOf (H K : Subgroup G) [H.FiniteIndex] :
...
+  index_ne_zero := by
+    rw [index_comap]
+    exact (instFiniteIndex_subgroupOf H f.range).index_ne_zero
+
+@[to_additive]
+theorem FiniteIndex.map_of_surjective {G' : Type*} [Group G'] (hfi : H.FiniteIndex)
+    {f : G →* G'} (hf : Function.Surjective f) : (H.map f).FiniteIndex where
+  index_ne_zero h0 := hfi.index_ne_zero (by
+    have hd := H.index_map_dvd hf
+    rwa [h0, zero_dvd_iff] at hd)
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: Can you use existing variables?

File: Mathlib/Algebra/Group/Subgroup/Map.lean (hunk 36 above)
Comment (t4v1) [reply Mathlib/Algebra/Group/Subgroup/Map.lean]: done in 89a3c79

File: Mathlib/GroupTheory/Index.lean (hunk 37 above)
Comment (t4v1) [reply Mathlib/GroupTheory/Index.lean]: done in 89a3c79

Comment (t4v1) [reply Mathlib/GroupTheory/Index.lean]: done in 89a3c79

File: Mathlib/Algebra/Group/Submonoid/Operations.lean [hunk 38]
```diff
@@ -878,6 +878,11 @@ lemma submonoidComap_surjective_of_surjective (f : M →* N) (N' : Submonoid N)
   apply Subtype.val_injective
   simp [hx]
 
+@[to_additive]
+lemma submonoidComap_injective_of_injective (f : M →* N) (N' : Submonoid N)
+    (hf : Function.Injective f) : Function.Injective (f.submonoidComap N') :=
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Submonoid/Operations.lean]: It seems like `Function` might already be opened (see the statement of `submonoidComap_surjective_of_surjective`).

Comment (t4v1) [reply Mathlib/Algebra/Group/Submonoid/Operations.lean]: done in 5be1946

File: Mathlib/GroupTheory/Index.lean [hunk 39]
```diff
@@ -784,6 +784,20 @@ instance instFiniteIndex_subgroupOf (H K : Subgroup G) [H.FiniteIndex] :
     (H.subgroupOf K).FiniteIndex :=
   ⟨fun h => H.index_ne_zero_of_finite <| H.index_eq_zero_of_relIndex_eq_zero h⟩
 
+@[to_additive]
+instance FiniteIndex.comap (H' : Subgroup G') [H'.FiniteIndex] :
+    (H'.comap f).FiniteIndex where
+  index_ne_zero := by
+    rw [index_comap]
+    exact (instFiniteIndex_subgroupOf H' f.range).index_ne_zero
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]:
```suggestion
instance (H' : Subgroup G') [H'.FiniteIndex] : (H'.comap f).FiniteIndex where
  index_ne_zero := by
    rw [index_comap]
    exact FiniteIndex.index_ne_zero
```

File: Mathlib/GroupTheory/Index.lean [hunk 40]
```diff
@@ -784,6 +784,20 @@ instance instFiniteIndex_subgroupOf (H K : Subgroup G) [H.FiniteIndex] :
...
+
+@[to_additive]
+theorem FiniteIndex.map_of_surjective (hfi : H.FiniteIndex)
+    (hf : Function.Surjective f) : (H.map f).FiniteIndex where
+  index_ne_zero h0 := hfi.index_ne_zero (by
+    have hd := H.index_map_dvd hf
+    rwa [h0, zero_dvd_iff] at hd)
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]:
```suggestion
variable (H) in
@[to_additive]
theorem FiniteIndex.map_of_surjective [H.FiniteIndex] (hf : Function.Surjective f) :
    (H.map f).FiniteIndex where
  index_ne_zero := ne_zero_of_dvd_ne_zero FiniteIndex.index_ne_zero (H.index_map_dvd hf)
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 41]
```diff
@@ -0,0 +1,114 @@
...
+
+* A finitely generated group is virtually cyclic iff it has ≤ 2 ends
+  (requires ends of groups, not yet in Mathlib).
+-/
+
+@[expose] public section
+
+namespace Group
+
+variable (G : Type*) [Group G] {G' : Type*} [Group G']
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
variable {G G' : Type*} [Group G] [Group G']
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 42]
```diff
@@ -0,0 +1,114 @@
...
+
+/-- An additive group is **virtually cyclic** if it has a cyclic additive
+subgroup of finite index. -/
+@[mk_iff]
+class _root_.AddGroup.IsVirtuallyAddCyclic (G : Type*) [AddGroup G] : Prop where
+  exists_isAddCyclic_and_finiteIndex : ∃ H : AddSubgroup G, IsAddCyclic H ∧ H.FiniteIndex
+
+/-- A group is **virtually cyclic** if it has a cyclic subgroup of finite index. -/
+@[mk_iff, to_additive existing]
+class IsVirtuallyCyclic : Prop where
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
class IsVirtuallyCyclic (G : Type*) [Group G] : Prop where
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 43]
```diff
@@ -0,0 +1,114 @@
...
+
+namespace Group
+
+variable (G : Type*) [Group G] {G' : Type*} [Group G']
+
+/-- An additive group is **virtually cyclic** if it has a cyclic additive
+subgroup of finite index. -/
+@[mk_iff]
+class _root_.AddGroup.IsVirtuallyAddCyclic (G : Type*) [AddGroup G] : Prop where
+  exists_isAddCyclic_and_finiteIndex : ∃ H : AddSubgroup G, IsAddCyclic H ∧ H.FiniteIndex
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
  exists_isAddCyclic_and_finiteIndex (G) : ∃ H : AddSubgroup G, IsAddCyclic H ∧ H.FiniteIndex
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 44]
```diff
@@ -0,0 +1,114 @@
...
+
+/-- A group is **virtually cyclic** if it has a cyclic subgroup of finite index. -/
+@[mk_iff, to_additive existing]
+class IsVirtuallyCyclic : Prop where
+  exists_isCyclic_and_finiteIndex : ∃ H : Subgroup G, IsCyclic H ∧ H.FiniteIndex
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
  exists_isCyclic_and_finiteIndex (G) : ∃ H : Subgroup G, IsCyclic H ∧ H.FiniteIndex
```

File: Mathlib/Algebra/Group/Subgroup/Map.lean (hunk 32 above)
Comment (tb65536) [inline Mathlib/Algebra/Group/Subgroup/Map.lean]: Actually, you could shorten these names to `subgroupComap_surjective` and `subgroupComap_injective`, and could you also add `subgroupMap_injective`?

File: Mathlib/GroupTheory/Index.lean (hunk 39 above)
Comment (t4v1) [reply Mathlib/GroupTheory/Index.lean]: done in 471593e346

File: Mathlib/GroupTheory/Index.lean (hunk 40 above)
Comment (t4v1) [reply Mathlib/GroupTheory/Index.lean]: done in 471593e346

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 41 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: done in 471593e346

File: Mathlib/Algebra/Group/Subgroup/Map.lean (hunk 32 above)
Comment (t4v1) [reply Mathlib/Algebra/Group/Subgroup/Map.lean]: - both renamed: subgroupComap_surjective, subgroupComap_injective
- added subgroupMap_injective
- renamed the Submonoid pair the same way, so the two files stay in step
- the two surjective lemmas already existed, so the old names stay as deprecated aliases
- the only call site was inside Map.lean itself

Comment (t4v1) [reply Mathlib/Algebra/Group/Subgroup/Map.lean]: done in 471593e346

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 43 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: done in 471593e346

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 44 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: done in 471593e346

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 42 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: done in 471593e346

File: Mathlib/Algebra/Group/Subgroup/Map.lean [hunk 45]
```diff
@@ -511,6 +519,11 @@ theorem subgroupMap_surjective (f : G →* G') (H : Subgroup G) :
     Function.Surjective (f.subgroupMap H) :=
   f.submonoidMap_surjective H.toSubmonoid
 
+@[to_additive]
+theorem subgroupMap_injective {f : G →* G'} (hf : Function.Injective f) (H : Subgroup G) :
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Subgroup/Map.lean]: (to match the others)
```suggestion
theorem subgroupMap_injective (f : G →* G') (H : Subgroup G) (hf : Function.Injective f) :
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 46]
```diff
@@ -0,0 +1,112 @@
...
+instance (priority := 100) [Finite G] : IsVirtuallyCyclic G :=
+  ⟨⊥, inferInstance, inferInstance⟩
+
+variable (G) in
+/-- A virtually cyclic group has a subgroup that is cyclic, of finite index
+and normal: the normal core of any cyclic finite-index subgroup. -/
+@[to_additive]
+theorem IsVirtuallyCyclic.exists_isCyclic_and_finiteIndex_and_normal [IsVirtuallyCyclic G] :
+    ∃ H : Subgroup G, IsCyclic H ∧ H.FiniteIndex ∧ H.Normal := by
+  obtain ⟨H, hc, hfi⟩ := ‹IsVirtuallyCyclic G›.exists_isCyclic_and_finiteIndex
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
  obtain ⟨H, hc, hfi⟩ := exists_isCyclic_and_finiteIndex G
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 47]
```diff
@@ -0,0 +1,112 @@
...
+  exact ⟨H.normalCore, Subgroup.isCyclic_of_le H.normalCore_le, inferInstance, inferInstance⟩
+
+/-- A virtually cyclic group is virtually nilpotent: a cyclic group is
+commutative, hence nilpotent. This slots next to
+`Group.IsNilpotent.isVirtuallyNilpotent`. -/
+@[to_additive]
+theorem IsVirtuallyCyclic.isVirtuallyNilpotent [IsVirtuallyCyclic G] :
+    IsVirtuallyNilpotent G := by
+  obtain ⟨H, hc, hfi⟩ := ‹IsVirtuallyCyclic G›.exists_isCyclic_and_finiteIndex
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
  obtain ⟨H, hc, hfi⟩ := exists_isCyclic_and_finiteIndex G
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 48]
```diff
@@ -0,0 +1,112 @@
...
+  exact ⟨H, inferInstance, hfi⟩
+
+/-- The image of a virtually cyclic group under a surjective homomorphism is
+virtually cyclic. -/
+@[to_additive]
+theorem IsVirtuallyCyclic.of_surjective (f : G →* G') (hf : Function.Surjective f)
+    [IsVirtuallyCyclic G] : IsVirtuallyCyclic G' := by
+  obtain ⟨H, hc, hfi⟩ := ‹IsVirtuallyCyclic G›.exists_isCyclic_and_finiteIndex
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
  obtain ⟨H, hc, hfi⟩ := exists_isCyclic_and_finiteIndex G
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 49]
```diff
@@ -0,0 +1,112 @@
...
+  exact ⟨H.map f, isCyclic_of_surjective _ (f.subgroupMap_surjective H),
+    Subgroup.FiniteIndex.map_of_surjective H hf⟩
+
+/-- A group embedding into a virtually cyclic group is virtually cyclic: the
+preimage of the cyclic finite-index subgroup witnesses it. -/
+@[to_additive]
+theorem IsVirtuallyCyclic.of_injective (f : G →* G') (hf : Function.Injective f)
+    [IsVirtuallyCyclic G'] : IsVirtuallyCyclic G := by
+  obtain ⟨H, hc, hfi⟩ := ‹IsVirtuallyCyclic G'›.exists_isCyclic_and_finiteIndex
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
  obtain ⟨H, hc, hfi⟩ := exists_isCyclic_and_finiteIndex G'
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 50]
```diff
@@ -0,0 +1,112 @@
...
+  exact ⟨H.comap f,
+    isCyclic_of_injective (f.subgroupComap H) (f.subgroupComap_injective H hf),
+    inferInstance⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
  exact ⟨H.comap f, isCyclic_of_injective _ (f.subgroupComap_injective H hf), inferInstance⟩
```

File: Mathlib/Algebra/Group/Subgroup/Map.lean (hunk 45 above)
Comment (t4v1) [reply Mathlib/Algebra/Group/Subgroup/Map.lean]: done in 46d2b2a

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 46 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: done in 46d2b2a

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 48 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: done in 46d2b2a

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 50 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: done in 46d2b2a

Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: done in 46d2b2a

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 51]
```diff
@@ -0,0 +1,110 @@
...
+
+## Main definitions and results
+
+* `Group.IsVirtuallyCyclic` : a group with a cyclic subgroup of finite index.
+* `Group.IsVirtuallyCyclic.isVirtuallyNilpotent` : virtually cyclic groups are
+  virtually nilpotent (companion to `Group.IsNilpotent.isVirtuallyNilpotent`).
+* `Group.IsVirtuallyCyclic.of_surjective`,
+  `Group.IsVirtuallyCyclic.of_injective` : preservation under surjective
+  homomorphisms and group embeddings. Instances provide the cyclic and finite
+  base cases and closure under subgroups and quotients.
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
* `Group.IsVirtuallyCyclic.isVirtuallyNilpotent` : virtually cyclic groups are
  virtually nilpotent.
* `Group.IsVirtuallyCyclic.of_surjective`, `Group.IsVirtuallyCyclic.of_injective` :
  preservation under surjective and injective homomorphisms.
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 52]
```diff
@@ -0,0 +1,110 @@
...
+and normal: the normal core of any cyclic finite-index subgroup. -/
+@[to_additive]
+theorem IsVirtuallyCyclic.exists_isCyclic_and_finiteIndex_and_normal [IsVirtuallyCyclic G] :
+    ∃ H : Subgroup G, IsCyclic H ∧ H.FiniteIndex ∧ H.Normal := by
+  obtain ⟨H, hc, hfi⟩ := exists_isCyclic_and_finiteIndex G
+  exact ⟨H.normalCore, Subgroup.isCyclic_of_le H.normalCore_le, inferInstance, inferInstance⟩
+
+/-- A virtually cyclic group is virtually nilpotent: a cyclic group is
+commutative, hence nilpotent. This slots next to
+`Group.IsNilpotent.isVirtuallyNilpotent`. -/
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
/-- A virtually cyclic group is virtually nilpotent. -/
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 53]
```diff
@@ -0,0 +1,110 @@
...
+virtually cyclic. -/
+@[to_additive]
+theorem IsVirtuallyCyclic.of_surjective (f : G →* G') (hf : Function.Surjective f)
+    [IsVirtuallyCyclic G] : IsVirtuallyCyclic G' := by
+  obtain ⟨H, hc, hfi⟩ := exists_isCyclic_and_finiteIndex G
+  exact ⟨H.map f, isCyclic_of_surjective _ (f.subgroupMap_surjective H),
+    Subgroup.FiniteIndex.map_of_surjective H hf⟩
+
+/-- A group embedding into a virtually cyclic group is virtually cyclic: the
+preimage of the cyclic finite-index subgroup witnesses it. -/
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
/-- A group embedding into a virtually cyclic group is virtually cyclic. -/
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 54]
```diff
@@ -0,0 +1,110 @@
...
+/-- A finite group is virtually cyclic — via the trivial subgroup, which is
+cyclic and of finite index. -/
+@[to_additive]
+-- see Note [lower instance priority]
+instance (priority := 100) [Finite G] : IsVirtuallyCyclic G :=
+  ⟨⊥, inferInstance, inferInstance⟩
+
+variable (G) in
+/-- A virtually cyclic group has a subgroup that is cyclic, of finite index
+and normal: the normal core of any cyclic finite-index subgroup. -/
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
/-- A virtually cyclic group has a normal cyclic subgroup of finite index. -/
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean [hunk 55]
```diff
@@ -0,0 +1,110 @@
...
+  exists_isCyclic_and_finiteIndex (G) : ∃ H : Subgroup G, IsCyclic H ∧ H.FiniteIndex
+
+/-- A cyclic group is virtually cyclic. -/
+@[to_additive]
+-- see Note [lower instance priority]
+instance (priority := 100) [IsCyclic G] : IsVirtuallyCyclic G :=
+  ⟨⊤, inferInstance, inferInstance⟩
+
+/-- A finite group is virtually cyclic — via the trivial subgroup, which is
+cyclic and of finite index. -/
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]:
```suggestion
/-- A finite group is virtually cyclic. -/
```

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 47 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: done in 46d2b2a

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 49 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: done in 46d2b2a

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 51 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: done in 126ee37806

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 52 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: done in 126ee37806

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 53 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: done in 126ee37806

Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: done in 126ee37806

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 54 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: done in 126ee37806

File: Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean (hunk 55 above)
Comment (t4v1) [reply Mathlib/GroupTheory/SpecificGroups/VirtuallyCyclic.lean]: done in 126ee37806

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
